US09388172B2
In a 5 mL sealed tube, N-((4-chlorophenyl)(hydroxyimino)methyl)-4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanamide (30 mg, 56.0 μmol) was combined with DMF (2 ml) and heated at 120° C. for 3 hr. The reaction mixture was diluted with 30 ml of brine/water (1:1) and extracted with ether (2×30 ml). The combined organic layer was washed with brine and water, dried with MgSO4, filtered and concentrated in vacuo to give an oil. This crude material was purified by flash chromatography (silica gel, 12 g, 0% to 30% ethyl acetate in hexanes gradient) to afford an oil. This oil was treated with 4NHCl in dioxane and hexane and concentrated to give 14 mg (41%) of 1-{2-[3-(4-chlorophenyl)-[1,2,4]oxadiazol-5-ylmethyl]-3,3,3-trifluoro-propyl}-3-(3-trifluoromethyl-phenyl)-piperidine hydrochloride as a viscous solid. This solid was a 1:1 mixture of diastereomers by LCMS (MS of each peak showed MH+=518).

reactant | N-((4-chlorophenyl)(hydroxyimino)methyl)-4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanamide | 56.0 μmol, 30 mg | ClC1=CC=C(C=C1)C(NC(CC(C(F)(F)F)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)=O)=NO | C24H24ClF6N3O2
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | hexane | CCCCCC | C6H14
solvent | brine water | 30 ml | [Cl-].[Na+].O.O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-{2-[3-(4-chlorophenyl)-[1,2,4]oxadiazol-5-ylmethyl]-3,3,3-trifluoro-propyl}-3-(3-trifluoromethyl-phenyl)-piperidine hydrochloride | 14 mg, 41% | Cl.ClC1=CC=C(C=C1)C1=NOC(=N1)CC(CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | InChI=1S/C24H22ClF6N3O.ClH/c25-20-8-6-15(7-9-20)22-32-21(35-33-22)12-19(24(29,30)31)14-34-10-2-4-17(13-34)16-3-1-5-18(11-16)23(26,27)28;/h1,3,5-9,11,17,19H,2,4,10,12-14H2;1H
